data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_202278_1,[C@:1]1([C:2]([H:13])([H:14])[H:15])([O:10][H:11])[C@:6]([C:3]([H:16])([H:17])[H:18])([C:7]([C:4]([H:19])([H:20])[H:21])=[C:9]([H:22])[H:23])[C@:8]1([C:5]([H:24])([H:25])[H:26])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:6]([C:3]([H:16])([H:17])[H:18])=[C:8](\[C:5]([H:24])([H:25])[H:26])[H:12])([C:7]([C:4]([H:19])([H:20])[H:21])=[C:9]([H:22])[H:23])[O:10][H:11],73.04727500001903
MR_339409_1,[C:1]([C:2]([O:5][H:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])(/[N:6]=[N:7]\[N:4]([H:10])[H:11])[H:9]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[N:6]/[N:7]([C:2]([O:5][H:8])([H:12])[H:13])[N:4]([H:10])[H:11])[H:9],62.55923999999652
MR_537833_1,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:9])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:7][C:3]([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([O:7][C:3]([H:15])([H:16])[H:17])[H:10])([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:8][H:9],61.53327749998297
MR_15359_1,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4](=[C:5](\[C:3]([H:14])([H:15])[H:16])[H:10])[H:9])([O:6][H:7])[H:8]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](\[C:5]([C:3]([H:14])([H:15])[H:16])([O:6][H:7])[H:10])[H:9])[H:8],66.96366249996956
MR_527507_1,[C:1]1([O:6][H:8])([H:11])[N:3]([H:9])[C:2]([H:12])([H:13])[N:7]=[C:5]([H:14])[N:4]1[H:10]>>[C:1]([N:4](/[C:5](=[N:7]\[C:2]([N:3]([H:8])[H:9])([H:12])[H:13])[H:14])[H:10])(=[O:6])[H:11],47.200550000036685
MR_690887_1,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[N:5]([H:10])[H:11])[H:9])([O:6][H:8])([H:12])[H:13]>>[C:1]([O:6][H:8])([N:7](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]/[H:9])[N:5]([H:10])[H:11])([H:12])[H:13],70.44064000000134
MR_166836_1,[C:1]([C:4]([C:3]1([O:7][H:10])[C:6]([H:11])=[C:5]([C:2]([H:15])([H:16])[H:17])[O:9]1)=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:4](/[C:3](=[C:6](/[C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[H:11])[O:7][H:10])=[O:8])([H:12])([H:13])[H:14],19.412967499996512
MR_528890_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]\[O:5][H:9])([O:4][N:6][O:8])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C@@:3]([C:2]([H:12])([H:13])[H:14])([N:7]([O:5][H:9])[N:6][O:8])[O:4]1,41.84421000000583
MR_64720_2,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]1([O:7][C:2]([H:12])([H:13])[H:14])/[C:5](=[N:8]\[H:9])[C:6]1([H:15])[H:16])([H:10])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:4](=[C:6]([H:15])[H:16])[O:7][C:2]([H:12])([H:13])[H:14])=[N:8]/[H:9])([H:10])[H:11],71.46471999998397
MR_668585_0,[C:1]([O:2][H:8])([O:3][H:7])=[N:4]/[N:5]=[N:6]/[H:9]>>[C:1]1([O:2][H:8])([O:3][H:7])[N:4]=[N:5][N:6]1[H:9],21.673222500032665
MR_232833_1,[C:1](\[C:3]([C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:13])[N:8]([H:11])[H:12])(=[N:4]/[H:10])[O:7][H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:3]([C:5](=[C:6]([H:17])[H:18])[H:13])=[N:8]/[H:12])([N:4]([H:10])[H:11])[O:7][H:9],66.8714200000241
MR_197237_1,[C:1]([c:3]1[c:2]([N:4]([H:8])[H:9])[o:6][n:7][c:5]1[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([C:2]([N:4]([H:8])[H:9])=[O:6])[C:5]([H:10])=[N:7]1)([H:11])([H:12])[H:13],46.969630000013325
MR_388099_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:4](/[O:6][H:8])[H:11])([C:5](=[O:7])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([N:3]([H:9])[H:10])([C:5](=[O:7])[H:12])[C:4]1([O:6][H:8])[H:11],67.73109499999379
MR_563554_2,[C:1]([C:2]([O:6][H:11])([O:7][H:12])[H:13])([C:3](=[O:8])[H:14])([O:4][H:9])[O:5][H:10]>>[C:1]([C:2](=[O:6])[H:13])([C:3]([O:7][H:12])([O:8][H:11])[H:14])([O:4][H:9])[O:5][H:10],40.71910250002858
MR_268949_1,[C:1](=[C:2]([C:4](=[N:7]\[H:12])\[H:13])/[O:6][H:9])(\[N:3]([H:10])[H:11])[O:5][H:8]>>[C:1]1([N:3]([H:10])[H:11])([O:5][H:8])[C:2]([O:6][H:9])=[C:4]([H:13])[N:7]1[H:12],44.856837499997226
MR_333512_1,[C:1]([N:2](/[C:3]([N:4][N:5][H:8])=[N:6]\[H:9])[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]([N:5]([N:4][C:3][N:6][H:9])[H:8])[H:7])([H:10])([H:11])[H:12],73.05605999999685
MR_346684_1,[C:1]1([C:7]([N:5]([C:3]([H:14])([H:15])[H:16])[O:8][H:10])=[O:9])([H:12])[C:2]([C:4]([H:17])([H:18])[H:19])([H:13])[N:6]1[H:11]>>[C:1](\[C:2]([C:4]([H:17])([H:18])[H:19])([C:7]([N:5]([C:3]([H:14])([H:15])[H:16])[O:8][H:10])=[O:9])[H:13])(=[N:6]\[H:11])[H:12],68.99927249996651
MR_295719_1,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:5]([H:9])[H:10])[N:8]=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:7]([N:5]([H:9])[H:10])[N:8]=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13],64.32314249996608
MR_378932_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:3]([O:4][H:7])=[N:6]/[H:10])([O:5][H:8])[H:9]>>[C:1]1([O:5][H:8])([H:9])[C:3]([C:2]([H:11])([H:12])[H:13])([O:4][H:7])[N:6]1[H:10],49.51163249998018
MR_456383_0,[C:1](\[N:2]([H:8])[H:9])(=[C:4](/[C:3](=[O:6])[H:10])[H:11])[O:5][H:7]>>[C@@:1]1([N:2]([H:8])[H:9])([O:5][H:7])[C:4]([H:11])=[C:3]([H:10])[O:6]1,30.849154999943664
